US05686424
Using the procedure described in Example 3, a solution of 1-(2-adamantan-1-yl-2-oxoethyl) L-proline (109.1 mg, 0.37 mmol, 1.0 eq), triethylamine (156 uL, 1.12 mmol, 3.0 eq), and THF (1.5 mL), was treated with isobutyl chloroformate (53 uL, 0.41 mL, 1.1 eq), then with L-valine benzylamide (117.5 mg, 570 umol, 1.5 eq). Workup as before provided 127 mg (71%) of L-valine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide as a white foam.

reactant | 1-(2-adamantan-1-yl-2-oxoethyl) L-proline | 0.37 mmol, 109.1 mg, 1.0 eq | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)O)CCC2)=O | C17H25NO3
reactant | triethylamine | 1.12 mmol, 156 uL, 3.0 eq | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 53 uL, 1.1 eq | ClC(=O)OCC(C)C | C5H9ClO2
reactant | L-valine benzylamide | 570 umol, 117.5 mg, 1.5 eq | C(C1=CC=CC=C1)NC([C@@H](N)C(C)C)=O | C12H18N2O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | L-valine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide | 127 mg, 71% | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)N(C([C@@H](N)C(C)C)=O)CC3=CC=CC=C3)CCC2)=O | C29H41N3O3
